US06100275
3-(4-Fluorophenyl)-8-methyl-8-azabicyclo[3.2.1]octan-3-ol
The title compound was prepared from 4-bromofluorobenzene (26.3 g, 0.15 mol), n-butyllithium in hexanes (60 mL, 2.5 M; 0.15 mol) and 8-methyl-8-azabicyclo-[3.2.1]octan-3-one (10 g, 71.7 mmol). Yield 9.9 g (59%), m.p. 168.5-170° C.

reactant | 4-bromofluorobenzene | 0.15 mol, 26.3 g | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | n-butyllithium | C(CCC)[Li]
reactant | 8-methyl-8-azabicyclo-[3.2.1]octan-3-one | 71.7 mmol, 10 g | CN1C2CC(CC1CC2)=O | C8H13NO
product | 3-(4-Fluorophenyl)-8-methyl-8-azabicyclo[3.2.1]octan-3-ol | FC1=CC=C(C=C1)C1(CC2CCC(C1)N2C)O | C14H18FNO
